Regression test to show temperature-dependent capacitor behavior.
********************************************************************************
* Tier No.:  1
* Directory/Circuit Name:  TEMPCAP/tempcap.cir
*
* Analysis:
*
* This circuit is a modified version of TEMPCAP/capacitor.cir, by
* Todd Coffey and Tom Russo.  It replaces the original version, which
* had an incorrect analytic solution, and also didn't use a perl script.
* Just like the original was a modified version of the old capacitor.cir
* circuit, this one is a modified version of the new capacitor.cir.
*
* If this circuit is simulated correctly, the T=0 value of the voltage v(1)
* should be 1V, and it should decay to 0 with a time constant of RC, as
*   v(1)(T)=1V*exp(-t/RC), where R is 1K and C is given by:
*
*   The capacitance is C = baseCap*(1+(temp-tnom)*(TC1 + (temp-tnom)*TC2))
*       C = 20E-9*(1 + 700*(0.00177 + 700*(-6.3e-7))) = 1.9303e-06
*
* The provided perl script will generate the correct analytic solution 
* for this circuit.  Simply run as "./tempcap.cir.prn.gs.pl" and 
* it will take the tempcap.cir.prn file and generate an 
* tempcap.cir.prn.gs file which uses the same time points as in tempcap.cir.prn.
*
* The gold standard was generated from 
* > ./tempcap.cir.prn.gs.pl
* > cp tempcap.cir.prn.gs ../../OutputData/TEMPCAP/tempcap.cir.prn
*
* These high relative and absolute tolerances are required to match the
* analytic solution.
*
* THIS VERSION TESTS THE OVERRIDING OF TC1 and TC2 on the instance line.
* The values in the model card are deliberately wrong so that failure to
* override is obvious.
*
********************************************************************************
c1    1 0 CAP1 1uF IC=1 TEMP=727 TC1=1.77m TC2=-0.63U
r1    1 2 1K
v1 2 0 0V
.model CAP1 C ( TC1=-1.77M TC2=0.63U )

.print tran v(1)
.tran 0 5ms
.options timeint reltol=1e-6 abstol=1e-6
.END
